* Auto-generated by tools/run_h1_falsifier.py
* case_id=fa_004
* attack_class=uvlo_chatter_same
* polarity_mode=same
* voltage_mv=100
* ramp_mvps=10
* ratio_b_to_a=1
* t_stop_s=12.5
* tran_step_s=0.0015625
* R_LOAD=50k
* T_COLLAPSE_A=4.6
* T_RECOVER_A=6.0
* COLLAPSE_SCALE_A=0.0
* T_COLLAPSE_B=4.8
* COLLAPSE_SCALE_B=0.0
* Fixed startup path baseline for H1_multisource_cold_start.

.include "/home/archivara/work/repo/results/concept_evolve/tree/001_packet_scout_handoff_root/netlists/shared/source_pair_models.inc"
.include "/home/archivara/work/repo/results/concept_evolve/tree/001_packet_scout_handoff_root/netlists/shared/startup_cells.inc"

.param VLEVEL=100m
.param VOC_A={VLEVEL}
.param VOC_B={VLEVEL}
.param R_UNIT=1k
.param RATIO=1
.param R_A=1000.0
.param R_B=1000.0
.param POL_A=1
.param POL_B=1
.param RAMP_MVPS=10
.param C_STORE=10u
.param R_LOAD=100meg
.param V_HANDOFF=1.2
.param V_HANDOFF_FALL=1.0
.param TSTOP=12.5

.param R_LOAD=50k
.param T_COLLAPSE_A=4.6
.param T_RECOVER_A=6.0
.param COLLAPSE_SCALE_A=0.0
.param T_COLLAPSE_B=4.8
.param COLLAPSE_SCALE_B=0.0

VMEAS_A src_a_p n_src_a_p 0
VMEAS_B src_b_p n_src_b_p 0
XSOURCES src_a_p n_src_a_n src_b_p n_src_b_n source_pair

BMON_A n_src_a 0 V = { V(n_src_a_p,n_src_a_n) }
BMON_B n_src_b 0 V = { V(n_src_b_p,n_src_b_n) }
RANCHOR_A n_src_a_p n_src_a_n 1g
RANCHOR_B n_src_b_p n_src_b_n 1g
RREF_A n_src_a_n 0 1g
RREF_B n_src_b_n 0 1g

XROUTE_A n_src_a_p n_src_a_n n_start_p n_start_n fw_router
XSTARTUP n_start_p n_start_n n_store n_handoff startup_pump

VCTRL_MON n_store n_ctrl 0
RCTRL_OSC n_ctrl 0 40meg
RCTRL_PATH n_ctrl 0 80meg

CSTORE n_store 0 {C_STORE} ic=0
RLOAD n_store 0 {R_LOAD}

.include "/home/archivara/work/repo/results/concept_evolve/tree/001_packet_scout_handoff_root/netlists/shared/measurement_hooks.inc"

.tran 0.0015625 12.5 0 0.0015625
.end
